* C:\Users\aalon\OneDrive\Documents\_Repositorio\LTSpice_Circuitos\Bobina en AC.asc
R1 N001 N002 1k
V1 N001 0 AC 1.
L1 N002 0 100mH
.ac oct 100 1 10k
.backanno
.end
