* C:\Users\aalon\OneDrive\Documents\_Repositorio\LTSpice_Circuitos\Carga bobina.asc
R1 N001 N002 100
V1 N001 0 PULSE(0 15 0 1n 1n 10m 20m 1)
L1 RLLine 0 150mH Ipk=2 Rser=0 Rpar=0 Cpar=0
R2 RLLine 0 1k
D3 N002 RLLine D
.model D D
.lib C:\Users\aalon\AppData\Local\LTspice\lib\cmp\standard.dio
.ic V(RLLine)=0
.tran .01 .02
.backanno
.end
