* C:\Users\aalon\OneDrive\Documents\_Repositorio\LTSpice_Circuitos\Carga condensador.asc
C1 RCLine 0 10µ
R1 N001 RCLine 10k
V1 N001 0 PULSE(0 15 0 1n 1n 0.5 1 2)
.ic V(RCLine)=0
.tran .1 1
.backanno
.end
