* C:\Users\aalon\OneDrive\Documents\_Repositorio\LTSpice_Circuitos\Condensador en AC.asc
C1 N002 0 100n
R1 N002 N001 10k
V1 N001 0 AC 1.
.ac oct 100 1 10k
.backanno
.end
