* C:\Users\aalon\OneDrive\Documents\_Repositorio\LTSpice_Circuitos\Divisor de tensión con potenciómetro.asc
XU1 N001 0 VOUT pot_lin Rtot=10K wiper={wip} Rtap=1k tap=0.5
V1 N001 0 5v
.INCLUDE potentiometer_standard.lib
.STEP LIN PARAM wip  0  1.0  0.01
.OP
.backanno
.end
