* C:\Users\aalon\OneDrive\Documents\_Repositorio\Circuitos_electronicos\Circuitos\Filtro RC paso banda.asc
R1 Vout N001 200
C1 Vout 0 1nF
V1 Vin 0 SINE(0 1.5) AC 1
C2 N001 Vin 1nF
R2 N001 0 16k
.ac dec 100 1 1000Meg
* Paso alto
* Paso bajo
.backanno
.end
