* C:\Users\aalon\OneDrive\Documents\_Repositorio\Circuitos_electronicos\Circuitos\Filtro Sallen Key [LTSpice]\Filtro Sallen Key.asc
XU1 N002 Salida NC_01 NC_02 Salida level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N002 0 10k
R2 Salida N001 10k
C1 N002 N001 220nF
C2 N001 Entrada 220nF
V1 Entrada 0 SINE(0 1) AC 1
.ac dec 100 1 10k
.lib UniversalOpAmp1.lib
.backanno
.end
